Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Nitrate Analogues
 
Attending: ___.
 
Chief Complaint:
Progressive weakness, progressive dyspnea now at rest. 
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Mr. ___ is a ___ year-old right-handed man with a history 
including childhood polio, remote alcohol abuse, diet-controlled 
DM, SVT s/p ablation, and CKD who presents with acute worsening 
of a ___ month history of dyspnea in the setting of a nine-month 
history of progressive weakness, muscle cramping, 
fasciculations, dysphagia, weak cough, and unintentional weight 
loss. 
 
According to notes, the shortness of breath started almost one 
year ago.  Initially, it was most notable with ambulation and 
exertion.  In the past ___ months, however, Mr. ___ has had 
trouble breathing during more sedentary activities.  He has 
marked difficulty lying flat.  For the syndrome, he has 
presented for evaluation on several occasions.  He was initially 
found to have SVT.  He underwent ablation in ___ with no 
recurrence based on holter monitoring.  A stress test (___) 
was unrevealing.  Echo (___) showed left atrial dilation and 
LVH with a normal LVEF.  
 
He has also visited with the pulmonology team.  Investigatiry 
studies revealed a possible restrictive ventilatory deficit.  
There was no asymmetry of the diaphragm noted on CXR from 
___. The pulmonary team raised concern about ALS when the 
patient was noted to have fasciculations on examination.  
(Accordingly, the patient was scheduled to see Dr. ___ 
___.  The patient and family have noted the fasciculations 
in all limbs, and indicate they have become progressively 
pronounced.  The fasciculations or "body tremors"  occur in 
combination with muscle craming and weakness.
  
According to all accounts, Mr. ___ started to notice the 
gradual onset of weakness in the ___.  He recalls 
distal lower exrtemity weakness first, saying he tripped over 
his feet sometimes.  Over time he developed proximal weakness; 
he had trouble climbing out of cars and rising from seats.  More 
recently, he developed difficulty with fine finger movements and 
now has keeping his arms above his head to complete tasks.  
There was no clear trigger.  There are no exacerbating factors, 
and the symptoms do not seem to worsen throughout the day or get 
better after rest.  There are no alleviating factors.  
  
The weakness has been associated with many other symptoms 
including weight loss; he has unintentionally lost about 30 
pounds in the last 6 months.  He attributes the weight loss to 
anorexia.  He thinks that most of the weight loss manifests as 
loss of muscle mass.  For the weight loss and systemic symptoms, 
Mr. ___ has undergone CXR and colonoscopy which were negative. 
 He has also had HIV testing, which was negative.
  
He presents to the ED today due to increasing respiratory 
distress.  Due to initial tachycardia, tachypnea, and use of 
accessory muscles, he was placed on bipap.  Since that time, his 
vital signs have normalized.  Neurology is consulted for 
evaluation of an underlying neurological cause of respiratory
weakness.
 
NEUROLOGICAL REVIEW OF SYSTEMS
- Positive for: as above, weakened/absent cough, dysphagia to 
solids and liquids, lightheadedness, occasional headache, 
urinary incont x 1
- Negative for:  vertigo, vision loss, blurred vision, double 
vision, difficulty hearing, tinnitus, difficulty producing or 
understanding speech, numbness, tingling, bowel incontinence, 
urinary retention. 
  
GENERAL REVIEW OF SYSTEMS:
- Positive for: as above, dry mouth, constipation in setting of 
pain meds, knee pain
- Negative for: fevers, chest discomfort, abdominal pain, 
dysuria, rash.
 
Past Medical History:
- childhood polio - daignosed at ___ years, fully recovered
- HTN
- migraine
- SVT s/p ablation
- GERD
- remote alcohol abuse
- diet-controlled DM
- CKD
- dizziness
- lumbar canal stenosis, radiculopathy, s/p laminectomy and
fusion at L4-5
 
Social History:
___
Family History:
- negative for stroke, seizure, motor neuron disease
 
Physical Exam:
Admission Exam:
Vitals: T: 97.6 P:  140--> normalized with bipap R: 28 -->
improved with bipap  BP: 160/91 SaO2:98% RA
 
General: Awake, cooperative.  seated upright wearing bipap mask.
HEENT: Normocepahlic, atruamatic, no scleral icterus noted. 
Neck:  No carotid bruits appreciated.
Cardiac: Regular rate, normal S1 and S2.
Pulmonary: Lungs clear to auscultation bilaterally anteriorly.
Abdomen: Round. Normoactive bowel sounds.  Soft.  Non-tender,
non-distended. 
Extremities: Warm, well-perfused.
Skin: no rashes or concerning lesions noted.
 
NEUROLOGIC EXAMINATION:
 
Mental Status:
* Degree of Alertness: Alert.  Able to help relate history
without difficulty through writing, yes/no answers.
* Orientation: Oriented to person, place, day, month, year,
situation
* Attention: Attentive.
* Memory:  Pt able to write/repeat 3 words immediately and 
recall
___ unassisted at 30-seconds and 5-minutes (wrote them down). 
* Language: spoken language is limited due to bipap mask. 
Comprehension appears intact; pt able to correctly follow 
midline
and appendicular commands.  Reading and writing abilities 
intact.
* Calculation: Pt able to calculate number of quarters in $1.50
(showed on his fingers)
* Praxis: No evidence of apraxia.
  
Cranial Nerves:
* I: Olfaction not evaluated. 
* II: PERRL 3 to 2mm and brisk.  Visual fields full to
confrontation.
* III, IV, VI: EOMI without nystagmus.  
* V: Facial sensation intact to light touch in the V1, V2, V3
distributions.
* VII: difficult to evaluate with mask; is able to show teeth -
appears grossly symmetric.
* VIII: Hearing intact to finger-rub bilaterally. 
* IX, X: Palate difficult to visualize 
* XI: ___ strength in trapezii bilaterally.
* XII: difficult to visualize with mask.
 
Motor:
* Bulk: atrophy most notable in intrinsic hand muscles; also
present in proximal UE, possibly the pecs, EDBs.
* Tone: possible increase in bilat ___ tone vs paratonia
* Drift: No pronator drift.
* Fasciculations: notable throughout the upper and lower
extremities; unable to evaluate tongue with bipap in place
 
Strength:
* Left Upper Extremity:  5 throughout Delt, Biceps, Triceps,
Wrist Ext, Wrist Flex, Finger Ext, Finger Flex, 4 IO
* Right Upper Extremity: 5 throughout Delt, Biceps, Triceps,
Wrist Ext, Wrist Flex, Finger Ext, Finger Flex, 4 IO
 
* Left Lower Extremity:  5 throughout Iliopsoas, Quad, Ham,
breakable adduc,  4 Tib Ant, 5 Gastroc, 4 Ext Hollucis Longis
* Right Lower Extremity: 5 throughout Iliopsoas, Quad, Ham,
breakable adduc, Tib Ant, Gastroc, 4 Ext Hollucis Longis
  
Reflexes:
* Left:  1+ throughout Biceps, Triceps, Bracheoradialis,
Patellar, 0 Achilles
* Right: 1+ thoughout Biceps, Triceps, Bracheoradialis, 
Patellar,
0 Achilles
* Babinski: mute bilaterally
 
Sensation:
* Light Touch: intact bilaterally in lower extremities, upper
extremities, trunk, face
* Pinprick: decreased in distal upper + lower extremities, 
intact
in trunk, face
* Temperature: : decreased in distal upper + lower extremities,
intact in trunk, face
* Vibration: decreased at great toe, medial malleolus, 9 sec at 
L
pat + 7 sec at R pat, > 12 sec at index fingers
* Proprioception: intact bilaterally at level of great toe with
failry large amplitude movements
 
Coordination
* Finger-to-nose: intact bilaterally with intention tremor
 
Gait:
* Description: deferred at pt request
 
Pertinent Results:
Admission Labs

___ 05:40PM BLOOD WBC-7.5 RBC-5.92 Hgb-18.4* Hct-52.5* 
MCV-89 MCH-31.0 MCHC-35.0 RDW-13.7 Plt ___
___ 05:40PM BLOOD Neuts-77.4* Lymphs-17.4* Monos-4.5 
Eos-0.5 Baso-0.3
___ 05:40PM BLOOD ___ PTT-28.3 ___
___ 05:40PM BLOOD Glucose-209* UreaN-17 Creat-1.2 Na-126* 
K-4.0 Cl-86* HCO3-28 AnGap-16
___ 02:00AM BLOOD ALT-40 AST-30 LD(LDH)-105 CK(CPK)-153 
AlkPhos-58 TotBili-0.4
___ 02:00AM BLOOD Calcium-9.0 Phos-4.7*# Mg-1.8
___ 02:00AM BLOOD TSH-1.5
___ 02:00AM BLOOD CRP-0.4
___ 06:14PM BLOOD pO2-170* pCO2-54* pH-7.34* calTCO2-30 
Base XS-2
___ 05:39PM BLOOD Lactate-3.1*
___ 10:57PM URINE Hours-RANDOM Creat-129 Na-78 K-40 Cl-85 
TotProt-14 Prot/Cr-0.1
___ 10:57PM URINE U-PEP-NO PROTEIN
 
EKG
The rhythm may be sinus but consider also atrial tachycardia. 
Probable left anterior fascicular block. Delayed R wave 
progression with late precordial QRS transition is non-specific 
and may be due to left anterior fascicular block. Since the 
previous tracing of ___ P wave morphology is now less 
suggestive of atrial tachycardia. 
Rate PR QRS QT/QTc P QRS T 
129 164 94 ___ 32 
 
CXR
CHEST, AP: Examination is suboptimal due to underpenetration. 
Lung volumes are low, with crowding of bronchovascular markings. 
There is mild bibasilar atelectasis, but no focal consolidation. 
The heart size is normal. The aorta is moderately tortuous. 
There are no significant pleural effusions or pneumothorax. 
IMPRESSION: Low lung volumes. No acute cardiopulmonary process.  

 
CT TORSO:
1. No primary malignancy identified. 
2. Diverticulosis without diverticulitis. 
3. Possible bilateral ureteroceles. 
4. Stable well-circumscribed lucency in the right iliac bone. 
Stable mixed 
sclerotic and lucent left femoral head lesion. Both of these 
areas are 
unchanged since ___. 

EMG
FINDINGS: 
Left median motor nerve conduction studies shows normal distal 
latency, mild-to-moderately reduced response amplitudes, and 
mildly decreased conduction velocity. F-response minimum latency 
was mildly prolonged. 
  
Left ulnar motor nerve conduction studies were normal, including 
F waves. 
  
Left deep peroneal motor nerve conduction studies showed normal 
distal latency, normal response amplitudes, mildly reduced 
conduction velocity in the leg, and mildly reduced conduction 
velocity across the knee. F-response minimum latency was normal. 

  
Left tibial motor nerve conduction studies were normal, 
including F waves. 
  
Left median sensory nerve conduction study showed moderately 
decreased response amplitude and normal conduction velocity. 
   
Left ulnar sensory nerve response was absent. 
   
Left radial sensory nerve conduction study was normal. 
  
Left sural nerve conduction study showed normal response 
amplitude and mildly decreased conduction velocity. 
  
Right sural nerve conduction study was normal. 
  
Concentric needle electromyography (EMG) of left deltoid showed 
mild chronic reinnervation, moderate fasciculation potentials, 
with slight-to- moderately reduced recruitment in deltoid. 
  
EMG of left biceps, triceps, and abductor pollicis brevis showed 
mild, chronic reinnervation, moderate ongoing denervation, 
moderate fasciculations, and slightly reduced recruitment. 
  
EMG of left first dorsal interosseous showed mild, chronic 
reinnervation and severe ongoing denervation. 
  
EMG of left flexor carpi radialis showed mild, chronic 
reinnervation, mild ongoing denervation, and moderate 
fasciculation potentials. 
   
EMG of selected muscles representing the left L2-S1 myotomes 
showed moderate, chronic reinnervation, moderate fasciculations, 
and moderately-to-markedly reduced recruitment in tibialis 
anterior. 
  
EMG of left gastrocnemius showed mild, chronic reinnervation, 
mild ongoing denervation, and moderate fasciculations with 
slightly-to-moderately reduced recruitment. 
  
EMG of left extensor hallucis longus showed moderate, chronic 
reinnervation, mild ongoing denervation, and 
moderately-to-markedly reduced recruitment. 
   
EMG of left vastus lateralis showed borderline, chronic 
reinnervation, mild fasciculations, complex repetitive 
discharges, and slightly reduced 
recruitment. 
  
EMG of left genioglossus appeared normal but was limited by the 
patient's 
inability to fully relax. 
   
EMG of left masseter was normal. 
  
EMG of left mid-thoracic paraspinal muscles showed severe 
ongoing denervation. 
  
IMPRESSION: 
Abnormal study. The electrophysiologic evidence is consistent 
with a disorder of motor neurons or their axons. In addition, 
the electrophysiologic data is  suggestive of a mild, 
generalized, sensorimotor polyneuropathy with axonal  features. 
The absent left ulnar sensory response is of uncertain clinical 
significance. 
 
Brief Hospital Course:
___ yo RHM with history of childhood polio, remote alcohol abuse,
diet-controlled DM, SVT s/p ablation, and CKD presents with
acute worsening of a ___ month history of dyspnea in the setting
of a nine-month history of progressive weakness, muscle 
cramping,
fasciculations, dysphagia, weak cough, and unintentional weight
loss. 

The patient was in respiratory distress upon presentation to the 
ED. Due to initial tachycardia, tachypnea, and use of accessory 
muscles, he was placed on bipap. His vital signs normalized and 
he appeared more comfortable, though he did complain of 
claustrophobia with the mask. Initial neurologic examination 
reveals diffuse fasciculations, concerning for motor neuron 
disease. 

The patient was admitted to the neuro ICU. The patient was 
weaned off BiPAP, and stabilized on oxygen by nasal canula. 
After this he remained stable from a respiratory standpoint, 
with 02 saturations > 94% even during sleep. 

Given the high suspicion of motor neuron disease, and EMG was 
peformed and this was consistent with ALS. CT torso was done to 
rule out underlying malignancy, and this was negative. What is 
unusual about his pattern of weakness is that for a patient with 
ALS, and respiratory failure, he is not as weak as I would have 
expected. THis still raises the issue of post polio syndrome 
with respiratory failure although his EMG was suggestive of ALS. 

The patient and his family were informed of the diagnosis in a 
family meeting. They worked with social work and palliative care 
teams. The patient wished to return home, and he will receive 
home services and home ___ by nasal canula. He was set up for 
follow up in the ___ clinic. 

The patient was a FULL CODE during this admission. During 
repeated code status discussions, the patient expresses wishes 
not to be intubated if there was no chance of recovery, but was 
not ready to sign the papers. 
 
Medications on Admission:
ACETAMINOPHEN-CODEINE [TYLENOL-CODEINE #3] - 30 mg-300 mg Tablet
- ___ Tablet(s) by mouth every six (6) hours as needed for back
pain
FLUTICASONE - 50 mcg Spray, Suspension - 1 spray NU daily
GABAPENTIN -  (Prescribed by Other Provider) - 100 mg Capsule - 
1
(One) Capsule(s) by mouth three times a day
LISINOPRIL-HYDROCHLOROTHIAZIDE - 10 mg-12.5 mg Tablet - 1
Tablet(s) by mouth qam
MECLIZINE - 50 mg Tablet - 1 (One) Tablet(s) by mouth twice a 
day
as needed for dizziness
METOPROLOL TARTRATE - 25 mg Tablet - 1 tablet by mouth twice a
day
NIFEDIPINE - 90 mg Tablet Extended Rel 24 hr - 1 Tab(s) by mouth
once a day
PRILOSEC - 20MG Capsule, Delayed Release(E.C.) - EVERY MORNING 
AS
NEEDED FOR UPSET STOMACH
TADALAFIL [CIALIS] -  (Prescribed by Other Provider: Dr. ___
- 20 mg Tablet - 1 Tablet(s) by mouth as needed
ASPIRIN - 325MG Tablet - ONE PILL BY MOUTH EVERY MORNING
MULTIVITAMIN -  (OTC) -   Tablet - 1 Tablet(s) by mouth once a
day

 
Discharge Medications:
1. oxygen
2L continuous pulse dose portability 
respiratory diagnosis: ALS
2. commode
___ commode
patient is confined to single room
DX: ALS
3. bed
___ hospital bed
patient has a medical condition which requires positioning of 
the body that is not feasible in an ordinary bed to alleviate 
pain
DX: ALS
4. fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal DAILY (Daily).  
5. gabapentin 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
6. nifedipine 90 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO DAILY (Daily).  
7. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
8. riluzole 50 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*
9. meclizine 12.5 mg Tablet Sig: Two (2) Tablet PO Q8H (every 8 
hours) as needed for vertigo.  
10. aspirin, buffered 325 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
12. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. trazodone 50 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime).
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Amyotrophic Lateral Sclerosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neuro Status: Strength intact except for ___ weakness at L TA 
and ___. 
 
Discharge Instructions:
It was a pleasure taking care of you. You were admitted with 
trouble breathing. You were diagnosed with ALS ___ 
disease) by a nerve conduction study/EMG. You were treated with 
oxygen and a medication called riluzole. 
 
Followup Instructions:
___